US04816465
[4aRS(4aα, 8α, 8aβ)](±)-decahydro-1-[(3,4-dichlorophenyl)-acetyl]-8-(1pyrrolidinyl)-quinoline
A solution of 1.98 g of 3,4-dichlorophenyl acetic acid and 1.56 of of carbonyldiimidazole in 17 ml of tetrahydrofuran was stirred at 20° to 22° C. for one hour and then, 1.679 g of [4aRS(4aα, 8α, 8aβ)](±)-decahydro-8-(1-pyrrolidinyl)-quinoline (preparation given at the end of Example 4) were added in solution in 5 ml of tetrahydrofuran. The solution was stirred for 4 hours at 20° to 22° C. and the tetrahydrofuran was eliminated under reduced pressure at less than 45° C. The residue was triturated in 15 ml of ether and in 5 ml of a saturated solution of sodium bicarbonate, then separated and rinsed, first with water then with ether. After drying under reduced pressure, 2.320 g of [4aRS(4aα, 8α, 8aβ)](±)-decahydro-1-[(3,4-dichlorophenyl)-acetyl]-8-(1-pyrrolidinyl)-quinoline melting at 138° C. were obtained.

reactant | 3,4-dichlorophenyl acetic acid | 1.98 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (±)-decahydro-8-(1-pyrrolidinyl)-quinoline | N1(CCCC1)C1CCCC2CCCNC12 | C13H24N2
solvent | tetrahydrofuran | 17 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (±)-decahydro-1-[(3,4-dichlorophenyl)-acetyl]-8-(1pyrrolidinyl)-quinoline | ClC=1C=C(C=CC1Cl)CC(=O)N1CCCC2CCCC(C12)N1CCCC1 | C21H28Cl2N2O
